US04359420
1.10 g of ethyl α-amino-1,3,4,5-tetrahydro-4-methyl-5-oxo-2H-1,4-benzodiazepin-2-ylidene-acetate are dissolved in 15 ml of toluene and treated with 1.0 ml of triethyl orthoformate. The mixture is heated to reflux for 50 minutes, subsequently cooled and evaporated in vacuo. The crystalline residue is suspended in 25 ml of ethyl acetate, filtered off and dried. There is obtained ethyl 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate of melting point 165° C.

reactant | ethyl α-amino-1,3,4,5-tetrahydro-4-methyl-5-oxo-2H-1,4-benzodiazepin-2-ylidene-acetate | 1.10 g | NC(C(=O)OCC)=C1NC2=C(C(N(C1)C)=O)C=CC=C2 | C14H17N3O3
reactant | triethyl orthoformate | 1.0 ml | C(OCC)(OCC)OCC | C7H16O3
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate | CN1CC=2N(C3=C(C1=O)C=CC=C3)C=NC2C(=O)OCC | C15H15N3O3
